US07858621B2
L-Proline benzyl ester hydrochloride (96 mg, 2.0 eq) in DMF was put into a flask and K2CO3 (132 mg, 2.0 eq) was added, stirred for a while, and 3-(2-chloro-6-trifluoromethyl-4-yl-pyridin-3-yl)-acrylic acid (50 mg) was added at room temperature. The reaction mixture was stirred for 18 hrs. After the reaction was completed through the TLC checking, the mixture was diluted with EtOAc, washed with 1N HCl solution. The organic layer was dried over anhydrous MgSO4 and concentrated under reduced pressure to give a crude 6-trifluoromethyl-pyridin-2-yl}-pyrrolidin-2-yl carboxylic acid benzyl ester (45 mg). N-(4-Aminomethyl-5-ethynyl-2-fluoro-phenyl)-methanesulfonamide, HCl salt (30 mg, 0.11 mmol) was reacted with 6-trifluoromethyl-pyridin-2-yl}-pyrrolidin-2-yl-carboxylic acid benzyl ester (45 mg) to give 1-{3-[2-(3-ethynyl-5-fluoro-4-methanesulfonylamino-benzylcarbamoyl)-vinyl]-6-trifluoromethyl-pyridin-2-yl}-pyrrolidin-2-yl-carboxylic acid benzyl ester (3.2 mg, 4.5%) after purification by column chromatography (EtOAc/MeOH=10/1).

reactant | L-Proline benzyl ester hydrochloride | 96 mg, 2.0 eq | Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
reactant | K2CO3 | 132 mg, 2.0 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | pyrrolidin-2-yl carboxylic acid benzyl ester | 45 mg | C(C1=CC=CC=C1)OC(=O)C1NCCC1 | C12H15NO2
